US09238640B2
A solution of 2-(4-bromophenyl)-5,7-dimethoxyquinazolin-4(3H)-one (1.1 g, 3.23 mmol), K2CO3 (1.3 g, 9.69 mmol), PdCl2(dppf) (0.261 g, 0.32 mmol) and tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (1.0 g, 3.23 mmol) in DMF (50 mL) was heated to 110° C. overnight. The resulting solution was concentrated in vacuo and the material was purified twice by flash chromatography on silica gel, eluting with 0% to 5% of MeOH/CH2Cl2. The residue was further purified by flash chromatography on silica gel, eluting with 10% to 50% of EtOAc/CH2Cl2, to afford tert-butyl 4-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (0.030 g, 49%) as a light yellow solid.

reactant | 2-(4-bromophenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 3.23 mmol, 1.1 g | BrC1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C16H13BrN2O3
reactant | K2CO3 | 9.69 mmol, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 3.23 mmol, 1.0 g | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.32 mmol, 0.261 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 4-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.030 g, 49% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)=O | C26H29N3O5
